US05290477
Hydrogen gas was blown into a mixture of 21 g of 4,6-dichloro-5-methoxy-2-(4-benzyloxyphenyl)pyrimidine, 18.1 g of triethylamine, 3.15 g of 10% palladium-on-carbon, 210 ml of ethanol, and 11 ml of water, followed by stirring at 40° C. for 6 hours. The catalyst was removed by filtration, and the filtrate was poured into 300 ml of water and extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate and distilled to remove ethyl acetate to afford 8.93 g (percent yield: 90.9%) of 5-methoxy-2-(4-hydroxyphenyl)pyrimidine.

reactant | Hydrogen | [H][H] | H2
reactant | 4,6-dichloro-5-methoxy-2-(4-benzyloxyphenyl)pyrimidine | 21 g | ClC1=NC(=NC(=C1OC)Cl)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C18H14Cl2N2O2
reactant | triethylamine | 18.1 g | C(C)N(CC)CC | C6H15N
reactant | ethanol | 210 ml | C(C)O | C2H6O
catalyst | palladium-on-carbon | 3.15 g | [Pd] | Pd
solvent | water | 11 ml | O | H2O
product | 5-methoxy-2-(4-hydroxyphenyl)pyrimidine | 8.93 g, yield: 90.9% | COC=1C=NC(=NC1)C1=CC=C(C=C1)O | C11H10N2O2
